US04405789
The operation is as in Example 1, but starting from 3.8 g of 3-[2-(3-indolyl)-ethyl]-piperidine and 0.075 g of benzyltriethylammonium chloride in 40 ml of chloroform, and 5 g of sodium hydroxide in 10 ml of water. 1.3 g of 3-chloro-4-[2-(3-piperidyl)-ethyl]-quinoline are finally obtained in the form of the dihydrated monohydrochloride melting at 75° C.

reactant | 3-[2-(3-indolyl)-ethyl]-piperidine | 3.8 g | N1C=C(C2=CC=CC=C12)CCC1CNCCC1 | C15H20N2
reactant | sodium hydroxide | 5 g | [OH-].[Na+]
reactant | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | benzyltriethylammonium chloride | 0.075 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 10 ml | O | H2O
product | 3-chloro-4-[2-(3-piperidyl)-ethyl]-quinoline | 1.3 g | ClC=1C=NC2=CC=CC=C2C1CCC1CNCCC1 | C16H19ClN2
